US05576343
2-[2-[3-Hydroxy-4-[((3S)-3-pyrrolidinyl)oxy]phenyl]ethyl]-5-benzofurancarboxamidine Dihydrochloride
1.0 g of 2-[2-[4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]-3-hydroxyphenyl]ethyl]-5-benzofurancarboxamidine hydrochloride was dissolved in 30 ml of 6N hydrochloric acid, and the solution was refluxed under heating for 4 hours. After distilling off the solvent, the resulting residue was subjected to column chromatography using a column packed with a highly porous polymer type synthetic adsorbent (styrene-divinylbenzene polymer: Diaion HP-20) and using a water/acetonitrile mixture as an elution solvent. In this way, 320 mg of the title compound was obtained in a solid form.

reactant | 2-[2-[4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]-3-hydroxyphenyl]ethyl]-5-benzofurancarboxamidine hydrochloride | 1.0 g | Cl.C(C)(=O)N1C[C@H](CC1)OC1=C(C=C(C=C1)CCC=1OC2=C(C1)C=C(C=C2)C(=N)N)O
solvent | hydrochloric acid | 6N, 30 ml | Cl | ClH
product | 2-[2-[3-Hydroxy-4-[((3S)-3-pyrrolidinyl)oxy]phenyl]ethyl]-5-benzofurancarboxamidine Dihydrochloride | 320 mg | Cl.Cl.OC=1C=C(C=CC1O[C@@H]1CNCC1)CCC=1OC2=C(C1)C=C(C=C2)C(=N)N | InChI=1S/C21H23N3O3.2ClH/c22-21(23)14-3-6-19-15(10-14)11-16(26-19)4-1-13-2-5-20(18(25)9-13)27-17-7-8-24-12-17;;/h2-3,5-6,9-11,17,24-25H,1,4,7-8,12H2,(H3,22,23);2*1H/t17-;;/m0../s1
